US04070178
Preparation of 2-[4-(4-trifluoromethylphenoxy)phenoxy] propionitrile
A solution containing 6.2 g (0.02 mole) of 2-[4-(4-trifluoromethylphenoxy)phenoxy] propanamide and 10.0 ml of phosphorus oxychloride in 50 ml of toluene is stirred at 50° until reaction is complete, as indicated by vpc techniques. The reaction mixture is cooled and poured into crushed ice, whereupon the toluene layer is washed with water, dried, and concentrated in vacuo. Purification is effected by elution through a pad of silica gel (50% toluene/hexane) to afford a colorless solid, mp 53°-56°.

reactant | 2-[4-(4-trifluoromethylphenoxy)phenoxy] propanamide | 0.02 mole, 6.2 g | FC(C1=CC=C(OC2=CC=C(OC(C(=O)N)C)C=C2)C=C1)(F)F | C16H14F3NO3
reactant | phosphorus oxychloride | 10.0 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(4-trifluoromethylphenoxy)phenoxy] propionitrile | FC(C1=CC=C(OC2=CC=C(OC(C#N)C)C=C2)C=C1)(F)F | C16H12F3NO2
